US04785104
1-(3,4-Dimethoxyphenyl)-3-(acetoxymethyl)-4-ethyl-6,7-dimethoxy-isoquinoline
421.5 g (1.1 M) of 1-(3,4-dimethoxyphenyl-3-methyl-4-ethyl-6,7-dimethoxy-isoquinoline N-oxide and 1.1 liters of acetic anhydride are refluxed for 2.5 hours, then the solution is evaporated at reduced pressure. The residue is recrystallized first from 1.2 liters of 99% ethanol, then the resulting product (414.5 g, m. p. 115° to 120° C.) is repeatedly recrystallized from one liter of 99% ethanol. Yield 393.7 g (84.1%), m.p. 129° to 131° C.

reactant | 3,4-dimethoxyphenyl-3-methyl-4-ethyl-6,7-dimethoxy-isoquinoline N-oxide | COC=1C=C(C=CC1OC)C1=[N+](C(=C(C2=CC(=C(C=C12)OC)OC)CC)C)[O-] | C22H25NO5
reactant | acetic anhydride | 1.1 liters | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(3,4-Dimethoxyphenyl)-3-(acetoxymethyl)-4-ethyl-6,7-dimethoxy-isoquinoline | COC=1C=C(C=CC1OC)C1=NC(=C(C2=CC(=C(C=C12)OC)OC)CC)COC(C)=O | C24H27NO6
